US08455516B2
Synthesis of 3-((3-formyl-1H-indol-6-yl)methyl)benzoic acid:
(I-8): 3 ml anhydrous DMF was cooled in ice-water bath, then 50 μl POCl3 was added, the solution was stirred about 15 minutes, then 32 mg of methyl 3-(1H-indol-6-ylmethyl)benzoate in 2 ml DMF was added. The mixture was heated to 40° C. for 3 hours. After cooling to room temperature, the mixture was treated by cold water, following the general procedure above, the target compound was purified as a brown solid. Mass calculated for C17H13NO3: 279; LCMS: 280.6 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ ppm 9.87 (1H, s), 8.24 (1H, d, J=3.0 Hz), 7.99 (1H, s), 7.80 (1H, d, J=7.3 Hz), 7.76 (1H, d, J=7.9 Hz), 7.52 (1H, d, J=7.9 Hz), 7.41 (1H, t, J=7.9 Hz), 7.34 (1H, s), 7.12 (1H, d, J=7.3 Hz), 4.12 (2H, s).

reactant | POCl3 | 50 μl | O=P(Cl)(Cl)Cl | Cl3OP
reactant | methyl 3-(1H-indol-6-ylmethyl)benzoate | 32 mg | N1C=CC2=CC=C(C=C12)CC=1C=C(C(=O)OC)C=CC1 | C17H15NO2
reactant | water | O | H2O
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-((3-formyl-1H-indol-6-yl)methyl)benzoic acid | C(=O)C1=CNC2=CC(=CC=C12)CC=1C=C(C(=O)O)C=CC1 | C17H13NO3
